US06420557B1
(g) Ethyl 3-ethyl-1H-pyrazole-5-carboxylate
To a stirred solution of 2,2-dimethoxybutane (10 g, 84.7 mMol) in CH2Cl2 (50 mL) under a nitrogen atmosphere at 0° C. was added pyridine (13.7 mL, 169.5 mMol). The reaction mixture was maintained at 0° C. and a solution of trichloroacetyl chloride (18.9 mL, 169.5 mMol) in CH2CL2 (35 mL) was added over 1 hour with constant stirring. The yellow-orange solution begins to precipitate a white solid as the reaction progresses. The reaction mixture is allowed to warm to room temperature over 20 h. The reaction mixture was diluted with ethanol (150 mL) and re-cooled to 0° C. before treatment with hydrazine hydrate (8.2 mL, 169.5 mMol) as a solution in ethanol (35 mL) over 30 min. The reaction was heated to 50° C. and solvent was distilled at atmospheric pressure. The temperature was increased until the head temperature reached 78° C. Reflux was maintained for a further 2 h, before cooling to room temperature. The reaction mixture was diluted with water (250 mL) and ethanol was removed by evaporation at reduced pressure. The resultant mixture was extracted with CH2Cl2 (3×200 mL). The combined organics were dried (MgSO4), filtered and evaporated at reduced pressure to afford the title compound as a brown oil, 12.05 g, 85%.

reactant | 2,2-dimethoxybutane | 84.7 mMol, 10 g | COC(C)(CC)OC | C6H14O2
reactant | pyridine | 169.5 mMol, 13.7 mL | N1=CC=CC=C1 | C5H5N
reactant | trichloroacetyl chloride | 169.5 mMol, 18.9 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | hydrazine hydrate | 169.5 mMol, 8.2 mL | O.NN
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | Ethyl 3-ethyl-1H-pyrazole-5-carboxylate | C(C)C1=NNC(=C1)C(=O)OCC | C8H12N2O2
